US07186729B2
(R)-8-Chloro-1-ethyl-4-(1-{3[7-(-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-pyrolidine-3-yl)-1,3,4,5-tetrahydro-benzo[e][1,4]diazepin-2-one
To a solution of (R)-8-chloro-1-ethyl-4-pyrrolidin-3-yl-1,3,4,5-tetrahydro-benzo[e][1,4]diazepin-2-one (0.121 g, 0.32 mmol) in acetonitrile/water (8:2) (3.2 mL) was added K2CO3 (0.368 g, 2.6 mmol) and 2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol (0.102 g, 0.27 mmol). The solution was allowed to stir at room temperature for 48 h. The reaction was concentrated down and partitioned between EtOAc/H2O, extracted with EtOAc (3×). The organics were collected together dried over Mg2SO4, filtered and evaporated in vacuo, then purified by Biotage flash chromatography (5% methanol/95% methylene chloride to 10% methanol/90% methylene chloride to 15% methanol/85% methylene chloride) to yield the title compound (0.033 g, 21%). 1H-NMR (CDCl3): 1.17 (t, 3H), 1.55 (s, 6H), 1.73 (septet, 1H), 2.08 (m, 1H), 2.34(pentet, 2H), 2.43–2.61 (m, 4H), 2.85 (t, 1H), 2.92 (d, 1H), 3.10 (q, 1H), 3.22 (m, 1H), 3.52 (q, 2H), 3.91 (septet, 2H), 5.29 (bs, 2H), 6.12 (t, 1H), 6.79 (dd, 1H), 7.15–7.28 (m, 5H), 7.44 (s, 1H), 7.56 (d, 1H), 8.47 (d, 1H). ESI-MS m/z: 587 (M+1), retention time 1.37.

reactant | (R)-8-chloro-1-ethyl-4-pyrrolidin-3-yl-1,3,4,5-tetrahydro-benzo[e][1,4]diazepin-2-one | 0.32 mmol, 0.121 g | ClC=1C=CC2=C(N(C(CN(C2)[C@H]2CNCC2)=O)CC)C1 | C15H20ClN3O
reactant | K2CO3 | 2.6 mmol, 0.368 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol | 0.27 mmol, 0.102 g | BrCCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C19H20BrNO2
solvent | acetonitrile water | 3.2 mL | C(C)#N.O
product | (R)-8-Chloro-1-ethyl-4-(1-{3[7-(-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-pyrolidine-3-yl)-1,3,4,5-tetrahydro-benzo[e][1,4]diazepin-2-one | 0.033 g, 21% | ClC=1C=CC2=C(N(C(CN(C2)[C@H]2CN(CC2)CCC=C2C3=C(OCC4=C2C=CC=N4)C=CC(=C3)C(C)(C)O)=O)CC)C1 | C34H39ClN4O3
